US09388127B2
Nitrogen was bubbled through a mixture of 1-bromo-4-methoxybenzene (5.0 g, 26.8 mmol), 3-hydroxyphenylboronic acid (6.8 g, 49.6 mmol), aqueous potassium carbonate (2 M, 20 mL, 40 mmol), acetone (170 mL) and H2O (300 mL) for 5 minutes. Pd(OAc)2 (800 mg, 3.55 mmol) was added and the mixture was stirred under a nitrogen atmosphere at room temperature for 20 minutes, after which time LC-MS analysis showed the reaction to be complete. The reaction mixture was concentrated under vacuum then diluted with ethyl acetate (200 mL). The resulting suspension was filtered through a pad of celite, and the aqueous phase was then separated and extracted with EtOAc (2×100 mL). The combined organics were dried over MgSO4, filtered and concentrated to dryness under vacuum. The crude product was loaded onto a 340 g Biotage silica cartridge and purified by Biotage chromatography (eluting with iso-hexane/EtOAc, gradient 0 to 50%). The target compound 4′-methoxy-[1,1′-biphenyl]-3-ol was isolated as a white solid (5.66 g, 78% yield).

reactant | 1-bromo-4-methoxybenzene | 26.8 mmol, 5.0 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 3-hydroxyphenylboronic acid | 49.6 mmol, 6.8 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | potassium carbonate | 40 mmol, 2 M, 20 mL | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 170 mL | CC(=O)C | C3H6O
catalyst | Pd(OAc)2 | 3.55 mmol, 800 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | H2O | 300 mL | O | H2O
product | 4′-methoxy-[1,1′-biphenyl]-3-ol | COC1=CC=C(C=C1)C1=CC(=CC=C1)O | C13H12O2
